US04942173
A mixture of 4-t-butyl-3-cyano-1-[4-(2-trimethylsilylethynyl)-phenyl]-2,6,7-trioxabicyclo[2,2,2]octane (1.3 g.) and anhydrous potassium carbonate in dry methanol (125 ml.) was stirred under dry nitrogen for 2 hours. The resulting solution was evaporated in vacuo. The residue was taken up in diethyl ether and the ethereal solution was washed with water. The ethereal solution was dried over anhydrous sodium sulphate and evaporated in vacuo. The residue was purified by chromatography on alumina eluting with hexane:dichloromethane 4:1, saturated with ammonia. 4-t-butyl-3-cyano-1-(4-ethynylphenyl)-2,6,7-trioxabicyclo[2,2,2]octane was obtained as pale yellow needles (600 mg.).

reactant | 4-t-butyl-3-cyano-1-[4-(2-trimethylsilylethynyl)-phenyl]-2,6,7-trioxabicyclo[2,2,2]octane | 1.3 g | C(C)(C)(C)C12C(OC(OC1)(OC2)C2=CC=C(C=C2)C#C[Si](C)(C)C)C#N | C21H27NO3Si
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 125 ml | CO | CH4O
product | 4-t-butyl-3-cyano-1-(4-ethynylphenyl)-2,6,7-trioxabicyclo[2,2,2]octane | C(C)(C)(C)C12C(OC(OC1)(OC2)C2=CC=C(C=C2)C#C)C#N | C18H19NO3
